### PR TITLE
Add specification for GCMV8 functions

### PR DESCRIPTION
**Pull request by pennyannn**
### Description:

This PR adds specification for the three GCMV8 functions including:

`GCMInitV8` for `gcm_init_v8`, `GCMGmultV8` for `gcm_gmult_v8` and `GCMGhashV8` for `gcm_ghash_v8`.

These specification should later be used for establishing correctness of their respective Arm assembly routines.

### Testing:

Make all succeeds and cosimulation tests are successful on Graviton2 and Graviton3 machines.

### License:

By submitting this pull request, I confirm that my contribution is
made under the terms of the Apache 2.0 license.

### CODE REVIEW

File: Specs/GCMV8.lean [hunk 1]
```diff
@@ -0,0 +1,262 @@
...
+
+namespace GCMV8
+
+open BitVec
+
+------------------------------------------------------------------------------
+-- Functions related to bit vectors
+
+/-- Reverse bits of a bit-vector. -/
+def reverse (x : BitVec n) : BitVec n :=
```
Comment (shigoel) [inline Specs/GCMV8.lean:25]: I'd recommend moving this to `Arm/BitVec.lean` in the `BitVec` namespace.

File: Specs/GCMV8.lean [hunk 2]
```diff
@@ -0,0 +1,262 @@
...
+      let xi := extractLsb i i x
+      have h : i - i + 1 = (n - i - 1) - (n - i - 1) + 1 := by omega
+      let acc := BitVec.partInstall (n - i - 1) (n - i - 1) (h ▸ xi) acc
+      reverseTR x (i + 1) acc
+    else acc
+  reverseTR x 0 $ BitVec.zero n
+
+example : reverse 0b11101#5 = 0x17#5 := by native_decide
+
+/-- Split a bit-vector into sub vectors of size e. -/
```
Comment (shigoel) [inline Specs/GCMV8.lean:37]: This also belongs in `Arm/BitVec.lean`.

File: Specs/GCMV8.lean [hunk 3]
```diff
@@ -0,0 +1,262 @@
...
+  let rec reverseTR (x : BitVec n) (i : Nat) (acc : BitVec n) :=
+    if i < n then
+      let xi := extractLsb i i x
+      have h : i - i + 1 = (n - i - 1) - (n - i - 1) + 1 := by omega
+      let acc := BitVec.partInstall (n - i - 1) (n - i - 1) (h ▸ xi) acc
+      reverseTR x (i + 1) acc
+    else acc
+  reverseTR x 0 $ BitVec.zero n
+
+example : reverse 0b11101#5 = 0x17#5 := by native_decide
```
[the remark this answers is not in the document]
Comment (shigoel) [reply Specs/GCMV8.lean:35]: Maybe say `0b10111#5` instead of `0x17#5` to make it clear what `reverse` does.

File: Specs/GCMV8.lean [hunk 4]
```diff
@@ -0,0 +1,262 @@
...
+      let hi := lo + e - 1
+      have h₀ : e = hi - lo + 1 := by simp only [hi, lo]; omega
+      let part : BitVec e := h₀ ▸ extractLsb hi lo x
+      let newacc := part :: acc
+      splitTR x e h (i + 1) newacc
+    else acc
+  splitTR x e h 0 []
+
+example : split 0xabcd1234#32 8 (by omega) = [0xab#8, 0xcd#8, 0x12#8, 0x34#8] :=
+  by native_decide
```
Comment (shigoel) [inline Specs/GCMV8.lean:52]: `rfl` works here too.

File: Specs/GCMV8.lean [hunk 5]
```diff
@@ -0,0 +1,262 @@
...
+      let zi : BitVec m := h3 ▸ extractLsb (m - 1) 0 ((GCMV8.reduce y z) ++ xi)
+      have h1 : 1 = GCMV8.degree y - GCMV8.degree y + 1 := by omega
+      let bit : BitVec 1 := h1 ▸ extractLsb (GCMV8.degree y) (GCMV8.degree y) zi
+      have h4 : 1 = (n - i - 1) - (n - i - 1) + 1 := by omega
+      let newacc : BitVec n := BitVec.partInstall (n - i - 1) (n - i - 1) (h4 ▸ bit) acc
+      pdivTR x y (i + 1) zi newacc
+    else acc
+  pdivTR x y 0 (BitVec.zero m) (BitVec.zero n)
+
+example : pdiv 0b1101#4 0b10#2 (by omega) = 0b110#4 := by native_decide
```
Comment (shigoel) [inline Specs/GCMV8.lean:111]: `rfl` works for all `pmod`/`pdiv` examples.

File: Specs/GCMV8.lean [hunk 6]
```diff
@@ -0,0 +1,262 @@
...
+    https://link.springer.com/chapter/10.1007/978-3-031-34671-2_30
+-/
+def refpoly : BitVec 129 := 0x1C2000000000000000000000000000001#129
+
+/-- H_hat : twisted H
+  H_hat = x × H (mod Q(x))
+  See Remark 5 in paper
+    "A New Interpretation for the GHASH Authenticator of AES-GCM"
+-/
+protected def gcm_init_H (H : BitVec 128) : BitVec 128 :=
```
Comment (shigoel) [inline Specs/GCMV8.lean:158]: What's the rationale behind protecting some of these functions?

File: Specs/GCMV8.lean [hunk 7]
```diff
@@ -0,0 +1,262 @@
...
+    if i < n + 1 then
+      let acc := acc <<< 1
+      have h : n + (m + 1) = m + n + 1 := by omega
+      let tmp := if getMsb y i then (BitVec.zero n) ++ x else h ▸ BitVec.zero (m + n + 1)
+      let acc := h ▸ acc ^^^ tmp
+      pmultTR x y (i + 1) (h ▸ acc)
+    else acc
+  pmultTR x y 0 (BitVec.zero (m + n + 1))
+
+example: pmult 0b1101#4 0b10#2 = 0b11010#5 := by native_decide
```
Comment (shigoel) [inline Specs/GCMV8.lean:80]: `rfl` works here too.

File: Specs/GCMV8.lean [hunk 8]
```diff
@@ -0,0 +1,262 @@
...
+    0x88d320376963120dea0b3a488cb9209b#128,
+    0x8695e702c322faf935c1a04f8bfb2395#128,
+    0xb2261b4d0cb1e020b354474d48d9d96c#128,
+    0x568bd97348bd9145e4adc23e440c7165#128,
+    0xf9151b1f632d10b47d845b630bb0a55d#128,
+    0xa674eba8f9d7f2508491407c689db5e9#128,
+    0xec87cfb0e19d1c4e4af32418184aee1e#128,
+    0x7d1998bcfc545474f109e6e0b31d1eee#128,
+    0x7498729da40cd2808c107e5c4f494a9a#128,
+    0xd0e417a05fe61ba4a47c653dfbeac924#128 ] := by native_decide
```
Comment (shigoel) [inline Specs/GCMV8.lean:210]: Unfortunately, `decide` and `rfl` don't work here. `decide` does print out a message that can help diagnose the problem --- maybe we can look at this later.

File: Specs/GCMV8.lean (hunk 1 above)
Comment (pennyannn) [reply Specs/GCMV8.lean:25]: Done.

File: Specs/GCMV8.lean (hunk 2 above)
Comment (pennyannn) [reply Specs/GCMV8.lean:37]: Done.

File: Specs/GCMV8.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (pennyannn) [reply Specs/GCMV8.lean:35]: Done.

File: Specs/GCMV8.lean (hunk 4 above)
Comment (pennyannn) [reply Specs/GCMV8.lean:52]: Done.

File: Specs/GCMV8.lean (hunk 5 above)
Comment (pennyannn) [reply Specs/GCMV8.lean:111]: Done.

File: Specs/GCMV8.lean (hunk 7 above)
Comment (pennyannn) [reply Specs/GCMV8.lean:80]: Done.

File: Specs/GCMV8.lean (hunk 6 above)
Comment (pennyannn) [reply Specs/GCMV8.lean:158]: Usually, I protect a function when I think it's just a helper function and should not be used outside of the module. Let me know if that's what it's supposed to be.

Comment (shigoel) [reply Specs/GCMV8.lean:127]: Ah, do you mean to use `private` then instead of `protected`?

Comment (pennyannn) [reply Specs/GCMV8.lean:127]: Hmmmmmm. I didn't realize there is also `private`. Let me try.

Comment (pennyannn) [reply Specs/GCMV8.lean]: Done.

**Review by shigoel — APPROVED** [review]
Thanks!
